US04238220
Ethyl β-anilinocrotonate (23.9 g) is dissolved in dry benzene (200 ml) and placed in a flask under a nitrogen atmosphere. Acryloyl chloride (10 g) is dissolved in additional dry benzene (200 ml) and drop-added via a sidearm additional funnel over the course of 11/2 hour. The reaction mixture is allowed to stand at about 25° for one hour, and then poured into water and extracted with methylene chloride. Evaporation of the solvent yields crude 5-carbethoxy-N-(4-chlorophenyl)-6-methyl-3,4-dihydropyrid-2-one (23.3 g) having a melting point of 124°-6° (from hexane/ether).

reactant | Ethyl β-anilinocrotonate | 23.9 g | N(C1=CC=CC=C1)\C(=C/C(=O)OCC)\C | C12H15NO2
reactant | Acryloyl chloride | 10 g | C(C=C)(=O)Cl | C3H3ClO
reactant | water | O | H2O
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 5-carbethoxy-N-(4-chlorophenyl)-6-methyl-3,4-dihydropyrid-2-one | 23.3 g | C(=O)(OCC)C=1CCC(N(C1C)C1=CC=C(C=C1)Cl)=O | C15H16ClNO3
